data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.9600_sup_1.json
{"doi": "10.1002_adsc.9600_sup_1", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical hydroxy-thiocarbamation of electron-deficient alkenes (α-arylacrylates) with KSCN and H2O to give β-hydroxy primary S-thiocarbamates", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of SCN- to thiocyanate radical (SCN•) which adds to the alkene; cathode reduces H2O/protons to evolve H2 (confirmed by Pd/C-catalyzed hydrogenation of N-phenylmaleimide using the evolved H2)", "key_intermediates": [{"name": "thiocyanate radical (SCN•)", "smiles": "[S]C#N", "role": "reactive"}, {"name": "benzylic C-radical from SCN• addition to α-phenylacrylate", "smiles": "COC(=O)C(c1ccccc1)(CSC#N)[CH2]", "role": "transient"}, {"name": "benzylic cation after further anodic oxidation", "smiles": "COC(=O)C(c1ccccc1)(CSC#N)[CH2+]", "role": "transient"}, {"name": "β-hydroxy thiocyanate (after H2O trapping)", "smiles": "COC(=O)C(O)(c1ccccc1)CSC#N", "role": "transient"}, {"name": "β-hydroxy primary S-thiocarbamate product 4a (after SCN hydrolysis)", "smiles": "COC(=O)C(O)(c1ccccc1)CSC(=O)N", "role": "reactive"}], "electron_flow": "SCN- is oxidized at the anode to SCN•, which adds to the β-carbon of the α-arylacrylate to give a stabilized benzylic radical; further anodic single-electron oxidation generates a benzylic cation that is trapped by H2O to install the OH, while the cathode reduces protons to H2. The pendant SCN is then hydrolyzed to the primary S-thiocarbamate.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Only trace 4a formed; BHT-SCN adduct (HRMS m/z 300.1400, calc 300.1393) and BHT-trapped benzylic radical adduct (HRMS m/z 462.2076, calc 462.2073) detected, supporting SCN• and a C-centered radical intermediate"}, {"name": "D2O", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "D-incorporation into OH and NH2 of 4a (D-4a, HRMS 281.0643 vs calc 281.0646), confirming H2O is the proton/H source for OH and NH"}, {"name": "H2-18O", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "18O incorporated into both the OH and the C=O of the thiocarbamate of 4a (18O-4a, HRMS 282.0549 vs calc 282.0542), confirming H2O is the oxygen source for hydroxyl and for carbamate carbonyl (SCN hydrolysis)"}, {"name": "α-phenylacrylate 1a", "smiles": "COC(=O)C(=C)c1ccccc1", "purpose": "redox_probe", "observation": "CV onset oxidation +1.693 V vs SCE"}, {"name": "KSCN", "smiles": "[K+].[S-]C#N", "purpose": "redox_probe", "observation": "CV onset oxidation +0.383 V vs SCE — much easier to oxidize than 1a, indicating SCN- is the species oxidized at the anode"}, {"name": "N-phenylmaleimide (H2 probe)", "smiles": "O=C1C=CC(=O)N1c1ccccc1", "purpose": "intermediate_trap", "observation": "Headspace H2 from electrolysis reduces N-phenylmaleimide to N-phenylsuccinimide 6a in 59% yield with Pd/C, confirming cathodic H2 evolution"}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_BHT", "cyclic_voltammetry", "product_isotope_distribution", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Authors depict two BHT adducts (I: BHT-SCN from direct trapping of SCN•; II: BHT-trapped benzylic radical after SCN• addition to alkene), supporting a stepwise radical addition / radical-polar crossover pathway. The primary S-thiocarbamate (-SC(=O)NH2) arises from hydrolysis of the intermediate thiocyanate (-SCN) by H2O, as evidenced by 18O incorporation into the carbamate carbonyl."}
